US04324732
64.5 g of a product (47% of theory) containing 28.5% of 1-amino-4-benzoylaminoanthraquinone, 0.4% of 1,4-diaminoanthraquinone and 30% of 1,4-bis-benzoylaminoanthraquinone were obtained.

reactant | 1-amino-4-benzoylaminoanthraquinone | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC(C1=CC=CC=C1)=O | C21H14N2O3
reactant | 1,4-diaminoanthraquinone | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
product | 1,4-bis-benzoylaminoanthraquinone | 30% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC(C1=CC=CC=C1)=O | C28H18N2O4
